US08030500B2
4-Bromopicolinaldehyde
Manganese(IV) oxide (22.19 g, 255.29 mmol) was added to a solution of (4-bromopyridin-2-yl)methanol (4.00 g, 21.27 mmol) in chloroform (80 mL) and the reaction mixture was stirred under reflux for 45 min. After the mixture had cooled to room temperature the solids were removed by filtration through a pad of Celite®. The solvent was removed in vacuo and the residue (3.96 g, quant.) was used without further purification in the next step.

reactant | (4-bromopyridin-2-yl)methanol | 21.27 mmol, 4.00 g | BrC1=CC(=NC=C1)CO | C6H6BrNO
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Manganese(IV) oxide | 255.29 mmol, 22.19 g | [O-2].[Mn+4].[O-2]
product | 4-Bromopicolinaldehyde | BrC1=CC(=NC=C1)C=O | C6H4BrNO
